US09126940B2
Isobutyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoate (67%) was prepared according to Example 192, Step A described above, substituting 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoic acid for 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid and 2-methylpropan-1-ol for ethanol.

reactant | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)O)C | C14H19BO4
reactant | 2-methylpropan-1-ol | CC(CO)C | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | Isobutyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoate | 67% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCC(=O)OCC(C)C)C | C19H29BO4
